US07799822B2
Prepared using general procedure 27. A mixture of 4-bromo-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide (3.7 g, 11.6 mmol), tert-butyl-piperidin-4-ylcarbamate (2.32 g, 11.6 mmol), Pd2(dba)3 (319 mg, 0.35 mmol), phosphine (415 mg, 1.39 mmol), NaOtBu (3.55 g, 34.8 mmol) and toluene (30 mL) was stirred at 70° C. for 3 h. After allowing the mixture to cool to RT, H2O (50 mL) and EtOAc (50 mL) were added. After acidifying with a 1 M HCl solution to pH 4, the layers were separated, and the aqueous phase was extracted 3 times with CH2Cl2 (50 mL). The combined organic extracts were dried over MgSO4 and absorbed onto Celite. Purification via silica gel chromatography using 10% MeOH in CH2Cl2 gave tert-Butyl 1-(4-(N-1,2,4-thiadiazol-5-ylsulfamoyl)phenyl)-piperidin-4-ylcarbamate as an off-white foam (357 mg, 70%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=440.5; tR=2.76 min.

reactant | 4-bromo-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 11.6 mmol, 3.7 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1=NC=NS1 | C8H6BrN3O2S2
reactant | tert-butyl-piperidin-4-ylcarbamate | 11.6 mmol, 2.32 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | phosphine | 1.39 mmol, 415 mg | P | H3P
reactant | NaOtBu | 34.8 mmol, 3.55 g | CC(C)(C)[O-].[Na+]
reactant | HCl | 1 M | Cl | ClH
catalyst | Pd2(dba)3 | 0.35 mmol, 319 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 50 mL | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 1-(4-(N-1,2,4-thiadiazol-5-ylsulfamoyl)phenyl)-piperidin-4-ylcarbamate | 357 mg, 70% | S1N=CN=C1NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC(OC(C)(C)C)=O | C18H25N5O4S2
